US08871782B2
tert-Butyl 2-{[2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate (2.3 g, 5.06 mmol) was slurried in ethyl acetate (20 mL). 32% Peracetic acid in acetic acid (1.06 mL, 5.06 mmol) was added in one portion and the reaction was heated to 50° C. for 2 hours. Another 0.250 mL (1.19 mmol) peracetic acid solution was added and the reaction was stirred for 1 additional hour. Sodium metabisulfite (1.2 g, 6.33 mmol) in water (2.5 mL) was added over 3 minutes and the reaction was stirred for 30 minutes. The heat was removed and the reaction was brought to pH 10 with saturated aqueous sodium carbonate (˜10 mL). The milky slurry was cooled in an ice bath and subsequently filtered. The solid was washed with water and dried for 1 hour. Roughly 2.0 g of tert-butyl 2-{[2-ethyl-5-oxido-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate was isolated as an off-white solid with water still remaining.

reactant | tert-Butyl 2-{[2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 5.06 mmol, 2.3 g | C(C)C=1N(C2=C(C=NC=3C=C(C=CC23)OCCNC(OC(C)(C)C)=O)N1)CC1CCOCC1 | C25H34N4O4
reactant | Peracetic acid | C(C)(=O)OO | C2H4O3
reactant | acetic acid | 5.06 mmol, 1.06 mL | C(C)(=O)O | C2H4O2
reactant | peracetic acid | 1.19 mmol, 0.250 mL | C(C)(=O)OO | C2H4O3
reactant | Sodium metabisulfite | 6.33 mmol, 1.2 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2.5 mL | O | H2O
product | tert-butyl 2-{[2-ethyl-5-oxido-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 2.0 g | C(C)C=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCCNC(OC(C)(C)C)=O)[O-])N1)CC1CCOCC1 | C25H34N4O5
